US05374720
To a solution of p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (2.50 g, 4.2 mmol) in acetonitrile (60ml), N,N-diisopropylethylamine was dropwise added in a nitrogen stream under cooling with ice, followed by dropwise adding a solution of (2S,4S)-4-mercapto-2-(N-methylpiperidin-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidine trifluoroacetic acid salt (2.30 g, 4.6 mmol, compound of Reference Example 37 in acetonitrile (60 ml). After the mixture was stirred at 0° C. for 15 hours, the precipitate was collected by filtration, washed with acetonitrile and dried to obtain p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2 -[(2S,4S)-2-(N-methylpiperidin-4-yl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (2.12 g, yield: 69.7%).

reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 4.2 mmol, 2.50 g | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O10P
reactant | (2S,4S)-4-mercapto-2-(N-methylpiperidin-4-yl)-N-(p-nitrobenzyloxycarbonyl)pyrrolidine trifluoroacetic acid salt | FC(C(=O)O)(F)F.S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1CCN(CC1)C
solvent | acetonitrile | 60ml | C(C)#N | C2H3N
solvent | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | p-nitrobenzyl (1R,5S,6S)-6-[(R)-1-hydroxyethyl]-1-methyl-2 -[(2S,4S)-2-(N-methylpiperidin-4-yl)pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 2.12 g, yield: 69.7% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](NC2)C2CCN(CC2)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C27H36N4O6S
